US05969138
(2) Preparation of 1-(4-bromophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone
The title compound was prepared from 1-(4-bromophenyl)-3-mesyloxymethyl-2-pyrrolidinone and 1-(2-methoxyethyl)piperazine, in the same manner as in Preparation Example 1(8).

reactant | 1-(4-bromophenyl)-3-mesyloxymethyl-2-pyrrolidinone | BrC1=CC=C(C=C1)N1C(C(CC1)COS(=O)(=O)C)=O | C12H14BrNO4S
reactant | 1-(2-methoxyethyl)piperazine | COCCN1CCNCC1 | C7H16N2O
product | 1-(4-bromophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone | BrC1=CC=C(C=C1)N1C(C(CC1)CN1CCN(CC1)CCOC)=O | C18H26BrN3O2
